US06521716B1
To isophoronediamine (139.23 g, 0.819 mol) in methanol (700 ml) was slowly added with stirring ethyl butyroacetate (262.32 g, 1.660 mol) in methanol (700 ml) over 45 minutes, during which the temperature decreased slightly from 24° C. to 23° C. The reaction mixture was allowed to stand at 22° C. overnight (16 h). Further methanol was added, and removal of solvent and drying (91° C./100 Pa) gave 1-(1-ethoxycarbonyl-2-pent-1-enylamino)-3-(1-ethoxycarbonyl-2-pent-1-enylaminomethyl)-3,5,5-trimethylcyclohexane (EEMTCH formula shown below) as a clear light yellow pourable syrup (356.74 g, 97%), identified by 1H-NMR, 13C-NMR, FT-IR and Raman spectra.

reactant | isophoronediamine | 0.819 mol, 139.23 g | CC1(CC(CC(C1)(C)CN)N)C | C10H22N2
reactant | ethyl butyroacetate | 1.660 mol, 262.32 g | CCCC(=O)CC(=O)OCC | C8H14O3
solvent | methanol | 700 ml | CO | CH4O
solvent | methanol | 700 ml | CO | CH4O
product | 1-(1-ethoxycarbonyl-2-pent-1-enylamino)-3-(1-ethoxycarbonyl-2-pent-1-enylaminomethyl)-3,5,5-trimethylcyclohexane | 356.74 g, 97% | C(C)OC(=O)C=C(CCC)NC1CC(CC(C1)(C)C)(C)C(C(=O)OCC)NC(=C)CCC | C26H46N2O4
